**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Radial Leaded Wire Wound Inductor
* Matchcode:             WE-TI_HV
* Library Type:          LTspice
* Version:               rev22b
* Created/modified by:   Ella
* Date and Time:         6/10/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 8095_768772332_3.3m  1 2
Rp 1 2 1395.08641624
Cp 1 2 6.42516825022p
Rs 1 N3 7.08
L1 N3 2 3300u
.ends 8095_768772332_3.3m 
*******
.subckt 8095_768772102_1000u  1 2
Rp 1 2 270157.226666667
Cp 1 2 8.28927994p
Rs 1 N3 1.7
L1 N3 2 1000u
.ends 8095_768772102_1000u 
*******
.subckt 8095_768772122_1200u  1 2
Rp 1 2 302742.893
Cp 1 2 8.73926224p
Rs 1 N3 2.2
L1 N3 2 1200u
.ends 8095_768772122_1200u 
*******
.subckt 8095_768772152_1500u  1 2
Rp 1 2 351045.13
Cp 1 2 8.7066177p
Rs 1 N3 2.6
L1 N3 2 1500u
.ends 8095_768772152_1500u 
*******
.subckt 8095_768772182_1800u  1 2
Rp 1 2 308544.66
Cp 1 2 6.7518307p
Rs 1 N3 2.7
L1 N3 2 1800u
.ends 8095_768772182_1800u 
*******
.subckt 8095_768772221_220u  1 2
Rp 1 2 188767.92
Cp 1 2 8.4426323p
Rs 1 N3 0.5
L1 N3 2 220u
.ends 8095_768772221_220u 
*******
.subckt 8095_768772222_2200u  1 2
Rp 1 2 668092.28
Cp 1 2 7.86649152p
Rs 1 N3 3.9
L1 N3 2 2200u
.ends 8095_768772222_2200u 
*******
.subckt 8095_768772331_330u  1 2
Rp 1 2 237487.15
Cp 1 2 7.8210842p
Rs 1 N3 0.6
L1 N3 2 330u
.ends 8095_768772331_330u 
*******
.subckt 8095_768772471_470u  1 2
Rp 1 2 262541.603
Cp 1 2 8.64816708p
Rs 1 N3 1.1
L1 N3 2 470u
.ends 8095_768772471_470u 
*******
.subckt 8095_768772681_680u  1 2
Rp 1 2 233293.129
Cp 1 2 8.98954749p
Rs 1 N3 1.4
L1 N3 2 680u
.ends 8095_768772681_680u 
*******
.subckt 8095_768772821_820u  1 2
Rp 1 2 334347.253
Cp 1 2 7.97263465p
Rs 1 N3 1.6
L1 N3 2 820u
.ends 8095_768772821_820u 
*******
.subckt 1014_7687480121_120u 1 2
Rp 1 2 54146
Cp 1 2 15.693p
Rs 1 N3 0.12
L1 N3 2 106.249u
.ends 1014_7687480121_120u
*******
.subckt 1014_7687480471_470u 1 2
Rp 1 2 97125
Cp 1 2 13.141p
Rs 1 N3 0.44
L1 N3 2 442.567u
.ends 1014_7687480471_470u
*******
.subckt 1014_7687480681_680u 1 2
Rp 1 2 155542
Cp 1 2 12.602p
Rs 1 N3 0.72
L1 N3 2 652.415u
.ends 1014_7687480681_680u
*******
.subckt 1014_7687480102_1000u 1 2
Rp 1 2 134672
Cp 1 2 15.254p
Rs 1 N3 1
L1 N3 2 924.407u
.ends 1014_7687480102_1000u
*******
.subckt 1014_7687480122_1200u 1 2
Rp 1 2 191169
Cp 1 2 13.061p
Rs 1 N3 1.15
L1 N3 2 1139u
.ends 1014_7687480122_1200u
*******
.subckt 1014_7687480152_1500u 1 2
Rp 1 2 163625
Cp 1 2 13.675p
Rs 1 N3 1.5
L1 N3 2 1400u
.ends 1014_7687480152_1500u
*******
.subckt 1014_7687480182_1800u 1 2
Rp 1 2 255414
Cp 1 2 12.091p
Rs 1 N3 1.8
L1 N3 2 1686u
.ends 1014_7687480182_1800u
*******
.subckt 1014_7687480222_2200u 1 2
Rp 1 2 182952
Cp 1 2 13.846p
Rs 1 N3 2
L1 N3 2 2048u
.ends 1014_7687480222_2200u
*******
.subckt 1014_7687480332_3300u 1 2
Rp 1 2 269264
Cp 1 2 13.902p
Rs 1 N3 3.6
L1 N3 2 3197u
.ends 1014_7687480332_3300u
*******
.subckt 1014_7687480472_4700u 1 2
Rp 1 2 311416
Cp 1 2 13.936p
Rs 1 N3 4.8
L1 N3 2 4542u
.ends 1014_7687480472_4700u
*******
