* PSpice Model Editor - Version 16.2.0
*$
.SUBCKT TRANS P1 P2 S1 S2 A1 A2 
*.SUBCKT TRANS P1 P2 A1 A2 S1 S2
* MODEL Type: 750815039
RP1 P1 PI1 5.75
LP1 PI2 P2 6600u
LL1 PI1 PI2 1u
LS1 S1 SI1 20.37u
RS1 SI1 S2 107m
LA1 A2 AI 20.37u
RAI A1 AI 97m
K1 LP1 LS1 LA1 1
RG1 S2 0 1G
RG2 A2 0 1G
.ends TRANS
*$
