* PSpice Model Editor - Version 16.2.0
*$
.SUBCKT FWDR P1 P2 S1 S2 RS1 RS2 
*.SUBCKT FWDR P1 P2 RS1 RS2 S1 S2
* MODEL Type: Forward with reset winding Transformer
RP1 P1 PI1 2.5
LP1 PI2 P2 1250u
LL1 PI1 PI2 30u
LS1 S1 SI1 46.495u
RS1 SI1 S2 620m
LRS1 RS2 RSI 46.495u
RRSI RS1 RSI 620m 
K1 LP1 LS1 LRS1 1
RG1 S2 0 1G
RG2 RS2 0 1G
.ends FWDR
*$
